US07799804B2
1-(4-Benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid
To a suspension of 1-(4-benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester, from Ex. 1, Step 2 (3.62 g, 7.5 mmol) in 60 ml methanol was added potassium hydroxide (4.05 g, 72 mmol) in water (20 ml), and the reaction mixture was refluxed for 2 hours. The mixture was cooled to room temperature, acidified to pH˜2 with 1 M HCl and extracted with ethyl acetate (2×200 ml). The combined organic phases were dried (Na2SO4), filtered and concentrated to give 3.38 g (99%) of the title compound.

reactant | 1-(4-benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(N(C1C)C1=CC=C(C=C1)OCC1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C26H22Cl2N2O3
reactant | potassium hydroxide | 72 mmol, 4.05 g | [OH-].[K+]
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 1-(4-Benzyloxyphenyl)-2-(2,4-dichlorophenyl)-5-methyl-1H-imidazole-4-carboxylic acid | 3.38 g, 99% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=NC(=C1C)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C24H18Cl2N2O3
